US04382039
In this procedure, the reaction mixture is obtained as a black, tarry suspension towards the end of the addition of sulphur trioxide and, after hydrolysis of the p-nitrotoluene-2-sulphonic acid anhydride with water, an aqueous solution of p-nitrotoluene-2-sulphonic acid is formed from the suspension, and this is treated with active charcoal, before or after separating off water-insoluble by-products, in order to separate off dissolved, coloured compounds and dissolved, unreacted p-nitrotoluene.

reactant | sulphur trioxide | S(=O)(=O)=O | O3S
reactant | p-nitrotoluene-2-sulphonic acid anhydride | [N+](=O)([O-])C=1C=C(C(=CC1)C)S(=O)(=O)OS(=O)(=O)C=1C(=CC=C(C1)[N+](=O)[O-])C | C14H12N2O9S2
solvent | water | O | H2O
product | p-nitrotoluene-2-sulphonic acid | [N+](=O)([O-])C=1C=C(C(=CC1)C)S(=O)(=O)O | C7H7NO5S
